US06140338
Synthesis of N-[1-(cyclooctylmethyl)piperidin-4-yl]phenoxazine-9-carboxamide
50.3 mg of phenoxazine was dissolved in 3 ml of tetrahydrofuran at room temperature, and 0.15 ml of triethylamine and 86 mg of triphosgene were successively added thereto. After refluxed under heating for 30 minutes, 110 mg of 4-amino-1-cyclooctylmethylpiperidine dihydrochloride and 0.15 ml of triethylamine were added thereto, followed by reflux under heating for 2 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, the obtained residue was purified by preparative thin layer chromatography (Kieselgel™60F254, Art5744 produced by Merck Co.: chloroform/methanol=30/1), and 105 mg of the title compound as a yellow solid was obtained.

reactant | phenoxazine | 50.3 mg | C1=CC=CC=2OC3=CC=CC=C3NC12 | C12H9NO
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 86 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-amino-1-cyclooctylmethylpiperidine dihydrochloride | 110 mg | Cl.Cl.NC1CCN(CC1)CC1CCCCCCC1
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-[1-(cyclooctylmethyl)piperidin-4-yl]phenoxazine-9-carboxamide | 105 mg | C1(CCCCCCC1)CN1CCC(CC1)NC(=O)C=1C=CC=C2OC=3C=CC=CC3NC12 | C27H35N3O2
